US07759337B2
A mixture of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.1 g, 0.3 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (70 mg, 0.3 mmol) and tetrakis(triphenylphosphine)palladium (0.03 g, 0.03 mmol) in 10 mL DME/EtOH (4:1) was treated with 2 M potassium carbonate (0.6 mL, 1.2 mmol). The mixture was stirred at 90° C. for 2 h. The mixture was cooled to room temperature, diluted with 100 mL DCM, washed with sat. NaHCO3, dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude product was purified via flash chromatography (silica gel) eluting with a gradient of 2% 2 M ammonia in MeOH/DCM to 6% 2 M ammonia in MeOH/DCM to give N-cyclopropyl-4-methyl-3-(1-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phthalazin-6-yl)benzamide (0.10 g) as a pale yellow solid. Found MS (ES+): 399(M+H)+.

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 0.3 mmol, 0.1 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 0.3 mmol, 70 mg | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
reactant | potassium carbonate | 1.2 mmol, 2 M, 0.6 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 10 mL | COCCOC.CCO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-4-methyl-3-(1-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phthalazin-6-yl)benzamide | 0.10 g | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C=1CCN(CC1)C)=O | C25H26N4O
